### PR TITLE
feat: `BitVec.toInt_shiftLeft` theorem

### PR DESCRIPTION
**Pull request by mhk119**
This PR completes the toNat/Int/Fin family for `shiftLeft`.

### CODE REVIEW

**Comment by tobiasgrosser** [comment]
changelog-library

**Comment by tobiasgrosser** [comment]
@mhk119, the PR message should start with "This PR ...".

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -1124,6 +1124,11 @@ theorem not_eq_comm {x y : BitVec w} : ~~~ x = y ↔ x = ~~~ y := by
     BitVec.toNat (x <<< n) = BitVec.toNat x <<< n % 2^v :=
   BitVec.toNat_ofNat _ _
 
+@[simp] theorem toInt_shiftLeft {x : BitVec w} :
+    BitVec.toInt (x <<< n) = Int.bmod (x.toNat <<< n) (2^w) := by
+    rw [toInt_eq_toNat_bmod, toNat_shiftLeft, Nat.shiftLeft_eq]
+    simp
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:1130]: Reduce indenting by 2 in the proof.

**Comment by kim-em** [comment]
While you're here, could you adjust this theorem, and the ones immediately above/below (and any analogues for right shift?) to use dot notation rather than `BitVec.toX` and `Int.bmod`?

**Comment by tobiasgrosser** [comment]
Also, please use `BitVec` in the PR title.
